US06258850B1
A solution of 2-ethoxy-3-[4-(2-{4-methanesulfonyloxyphenyl}-ethoxy)phenyl]propanoic acid (10.5 g; 25.7 mmole) in dry dichloromethane (150 ml) was cooled on an ice-bath and EDC (5.42 g; 28.3 mmole), diisopropylethylamine (4.8 ml; 28.3 mmole) and HOBtxH2O (3.82 g; 28.3 mmole) were added. After 20 minutes the ice-bath was removed and (R)-phenylglycinol (3.88 g; 28.3 mmole) was added. After stirring at room temperature over night dichloromethane (100 ml), citric acid (60 ml, 10%) and ethyl acetate were added and the phases were separated. The organic phase was washed with citric acid (60 ml), sodium bicarbonate (2×60 ml) and brine (60 ml), dried (sodium sulfate), filtered and the solvent evaporated in vacuo. The crude product was crystallized twice in ethyl acetate/heptan to give 4.43 g of (R)-2-ethoxy-N-(2-hydroxy-(R)-1-phenylethyl)-3-[4-(2-{4-methanesulfonyloxyphenyl}-ethoxy)phenyl]propanoic amide. The mother liquids were combined, the solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel using ethyl acetate:heptan (gradient 25 to 100% ethyl acetate) to give 5.14 g (yield 38%) of(S)-2-ethoxy-N-(2-hydroxy-(R)-1-phenylethyl)-3-[4-(2-{4-methanesulfonyloxyphenyl}ethoxy)-phenyl]propanoic amide and 0.51 g (totally 4.94 g, yield 36%) of (R)-2-ethoxy-N-(2-hydroxy-(R)-1-phenylethyl)-3-[4-(2-{4-methanesulfonyloxyphenyl}-ethoxy)phenyl]propanoic amide.

reactant | 2-ethoxy-3-[4-(2-{4-methanesulfonyloxyphenyl}-ethoxy)phenyl]propanoic acid | 25.7 mmole, 10.5 g | C(C)OC(C(=O)O)CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)OS(=O)(=O)C | C20H24O7S
reactant | EDC | 28.3 mmole, 5.42 g
reactant | diisopropylethylamine | 28.3 mmole, 4.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (R)-phenylglycinol | 28.3 mmole, 3.88 g | C1=CC=C(C=C1)C(CO)N | C8H11NO
reactant | citric acid | 60 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-ethoxy-N-(2-hydroxy-(R)-1-phenylethyl)-3-[4-(2-{4-methanesulfonyloxyphenyl}-ethoxy)phenyl]propanoic amide | 4.43 g | C(C)O[C@@H](C(=O)N[C@@H](CO)C1=CC=CC=C1)CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)OS(=O)(=O)C | C28H33NO7S
